US08748440B2
Preparation of 4-tert-butyl-N-{1-[3-(4-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-methylbenzamide and Related Compounds
In a similar manner, but replacing 4-tert-butylbenzoyl chloride with octanoyl chloride and 3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one with 3-(2,4-dimethylphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one, the following compound was made:

reactant | octanoyl chloride | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | 3-(4-methoxyphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one | COC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)NC | C18H19N3O2
reactant | 3-(2,4-dimethylphenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one | CC1=C(C=CC(=C1)C)N1C(=NC2=CC=CC=C2C1=O)C(C)NC | C19H21N3O
product | 4-tert-butyl-N-{1-[3-(4-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-methylbenzamide | C(C)(C)(C)C1=CC(=C(C(=O)NC(C)C2=NC3=CC=CC=C3C(N2C2=CC=C(C=C2)OC)=O)C=C1)C | C29H31N3O3
